US07435837B2
Treatment of (±)-[7-(2-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.51 g, 1.23 mmol) with sodium azide (0.20 g, 3.08 mmol) generally according to the procedure described for Intermediate 98 provided (±)-2-(azidomethyl)-7-(2-naphthyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.050 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 0.183 g (48%) of (±)-1-[7-(2-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 135-140° C.; Anal. calcd. for C19H17NOHCl.0.3H2O: C, 71.94; H, 5.91 N, 4.42. Found: C, 71.67; H, 5.95; N, 4.25.

reactant | (±)-[7-(2-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.23 mmol, 0.51 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC1=CC=CC=C1C=C2 | C26H22O4S
reactant | sodium azide | 3.08 mmol, 0.20 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(2-naphthyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC1=CC=CC=C1C=C2 | C19H15N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.050 g | [Pd] | Pd
product | (±)-1-[7-(2-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.183 g, 48% | C1=C(C=CC2=CC=CC=C12)C1=CC=CC=2CC(OC21)CN | C19H17NO
